US07511057B2
[4-(5-Amino-3-tert-butyl-1H-pyrazol-1-yl)Phenyl]methanol
Lithium aluminium hydride (1M in tetrahydrofuran, 1.83 mL, 1.83 mmol) was added to an ice-cold solution of 4-[5-amino-3-(1,1-dimethylethyl)-1H-pyrazol-1-yl]-benzoic acid methyl ester [(0.25 g, 0.92 mmol), WO2004060306, p 134] in tetrahydrofuran (5 mL), and the mixture was stirred at 0° C. for 1 hour. The reaction was then quenched with water (0.35 mL) and 1M sodium hydroxide solution (0.35 mL) followed by further water (1 mL). The mixture was then extracted with diethyl ether, (10 mL) and the organic solution was dried over sodium sulfate and concentrated in vacuo to afford the title compound as red oil in 98% yield, 220.1 mg.

reactant | Lithium aluminium hydride | 1.83 mmol, 1M, 1.83 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[5-amino-3-(1,1-dimethylethyl)-1H-pyrazol-1-yl]-benzoic acid methyl ester | 0.92 mmol, 0.25 g | COC(C1=CC=C(C=C1)N1N=C(C=C1N)C(C)(C)C)=O | C15H19N3O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [4-(5-Amino-3-tert-butyl-1H-pyrazol-1-yl)Phenyl]methanol | 98% yield | NC1=CC(=NN1C1=CC=C(C=C1)CO)C(C)(C)C | C14H19N3O
